US09085555B2
D. (2R,3S)-2-(3-Chloro-2-fluoro-benzylcarbamoyl)-3-fluoro-pyrrolidine-1-carboxylic acid tert-butyl ester
To a solution of (2R,3S)-3-fluoro-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester (120 mg, 0.514 mmol) in CH2Cl2 (5 mL) were added successively 3-chloro-2-fluorobenzylamine (0.065 mL, 0.514 mmol), HBTU (293 mg, 0.772 mmol) and DIPEA (0.18 mL, 1.03 mmol), and stirring was continued at RT for 20 h. The reaction mixture was then diluted with CH2Cl2, and the organics were washed with 0.1N aqueous HCl (2×), aqueous NaHCO3 (2×) and brine (1×), dried (Phase separator) and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (EtOAc/c-hexane gradient 1:4 to 1:3) to afford the title compound as a white foam. TLC Rf (EtOAc/c-hexane 1:1)=0.62; MS (LC/MS): 397 [M+Na]+, 319 [MH−tBu]+, 275 [MH−Boc]+; tR (HPLC conditions b): 4.72 min.

reactant | (2R,3S)-3-fluoro-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | 0.514 mmol, 120 mg | C(C)(C)(C)OC(=O)N1[C@@H]([C@H](CC1)F)C(=O)O | C10H16FNO4
reactant | 3-chloro-2-fluorobenzylamine | 0.514 mmol, 0.065 mL | ClC=1C(=C(CN)C=CC1)F | C7H7ClFN
reactant | HBTU | 0.772 mmol, 293 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 1.03 mmol, 0.18 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | (2R,3S)-2-(3-Chloro-2-fluoro-benzylcarbamoyl)-3-fluoro-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H]([C@H](CC1)F)C(NCC1=C(C(=CC=C1)Cl)F)=O | C17H21ClF2N2O3
